US05811389
A solution of 150 mg (0.46 mmol) of 6-aminomethyl-3,7-dimethoxy-10-methyl-10H-dibenzo[b,e][1,4]oxazine-4-acetonitrile in 2 ml of methanol was treated with 2 ml of 6N sodium hydroxide solution and heated at 110° in a bomb tube for 2 hours. The reaction mixture was evaporated to dryness and the residue was neutralized with 2N hydrochloric acid. After evaporating again the residue was dissolved in 2 ml of dioxan, whereupon the pH was adjusted to 8 with 1N sodium hydroxide solution and 151 mg (0.69 mmol) of di-tert-butyl dicarbonate were added. The reaction mixture was stirred at room temperature for 2 hours and then poured into ice/2N HCl solution and ethyl acetate. The organic phase was separated, dried over MgSO4 and evaporated. The residue was chromatographed on silica gel with chloroform/methanol (9:1), whereupon 160 mg (78.3%) of 6-[(1-tert-butoxyformamido)methyl]-3,7-dimethoxy-10-methyl-10H-phenoxazine-4-acetic acid were obtained as a yellowish amorphous solid; MS: 445 (M+).

reactant | 6-aminomethyl-3,7-dimethoxy-10-methyl-10H-dibenzo[b,e][1,4]oxazine-4-acetonitrile | 0.46 mmol, 150 mg | NCC1=C(C=CC=2N(C3=C(OC21)C(=C(C=C3)OC)CC#N)C)OC | C18H19N3O3
reactant | sodium hydroxide | 6N, 2 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 0.69 mmol, 151 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | 2 ml | CO | CH4O
product | 6-[(1-tert-butoxyformamido)methyl]-3,7-dimethoxy-10-methyl-10H-phenoxazine-4-acetic acid | 160 mg, 78.3% | C(C)(C)(C)OC(=O)NCC1=C2OC=3C(=C(C=CC3N(C2=CC=C1OC)C)OC)CC(=O)O | C23H28N2O7
